US07728142B2
6-Bromo-3-methanesulfonyl-2-methyl-4-(4-trifluoromethyl-phenyl)-quinoline
(2-Amino-5-bromo-phenyl)-(4-trifluoromethyl-phenyl)-methanone (compound of example A.3) (4 g, 11.6 mmol), methanesulfonylacetone (2.37 g, 17.4 mmol) and sodium tetrachloroaureate(III) dihydrate (0.23 g, 0.58 mmol) were heated at reflux in ethanol (50 ml) for 4 days. The resulting mixture was evaporated to dryness and the residue extracted with dichloromethane (2×), NaOH (2×) and NaCl (1×). The crude product was purified by chromatography on silica gel in heptane/ethyl acetate 70:30. One obtained a light yellow solid (1.5 g, 29%). MS: m/z=444 (M).

reactant | (2-Amino-5-bromo-phenyl)-(4-trifluoromethyl-phenyl)-methanone | 11.6 mmol, 4 g | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=C(C=C1)C(F)(F)F | C14H9BrF3NO
reactant | methanesulfonylacetone | 17.4 mmol, 2.37 g | CS(=O)(=O)CC(C)=O | C4H8O3S
reactant | sodium | 0.58 mmol, 0.23 g | [Na] | Na
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-Bromo-3-methanesulfonyl-2-methyl-4-(4-trifluoromethyl-phenyl)-quinoline | 1.5 g, 29% | BrC=1C=C2C(=C(C(=NC2=CC1)C)S(=O)(=O)C)C1=CC=C(C=C1)C(F)(F)F | C18H13BrF3NO2S
